US05098462
Following the procedure of Example 28, methyl 4-ethyl-5-thiazolecarboxylate is reacted with NBS and AIBN to give methyl 4-(1-bromoethyl)-5-thiazolecarboxylate, which is then reacted with sodium bicarbonate, or alteratively with potassium carbonate, and DMSO and the resulting methyl 4-acetyl-5-thiazolecarboxylate is treated with lithium hydroxide monohydrate to yield 4-acetyl-5-thiazolecarboxylic acid.

reactant | methyl 4-ethyl-5-thiazolecarboxylate | C(C)C=1N=CSC1C(=O)OC | C7H9NO2S
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | methyl 4-(1-bromoethyl)-5-thiazolecarboxylate | BrC(C)C=1N=CSC1C(=O)OC | C7H8BrNO2S
